Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro
 
Attending: ___
 
Chief Complaint:
hematuria 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 Mr. ___ is a ___ with PMH significant for HIV on HAART 
(reportedly with undetectable VL), HepC s/p Harvoni (reportedly 
with undetectable VL), CAD s/p multiple stents, CKD (baseline Cr 
1.5), HTN, COPD and chronic diarrhea who presents with hematuria 
and abdominal pain.  
 Patient was in his usual state of health until 4 days prior to 
admission when he developed ___ abdominal pain in the lower 
quadrants, unchanged from previous episodes of abdominal pain. 
Of note, patient has had numerous ED and outpatient visits for 
this pain without clear source. He also notes pain with 
urination the last ___ days associated with hematuria which is 
new for him. He reports that his urine is "brick" red without 
visible clots. He also reports a fever to ___ over the weekend 
and malaise which began around the same time as his urine 
darkening. He denies any changes to his bowel habits, diarrhea, 
hematochezia, melena, ___ colored stools. His last bowel 
movement was the day prior to presentation per ED.  
 In the ED, initial vital signs were: pain 8, 101.4, 101, 
220/76, 18, 97% RA  
 - Exam was notable for: trace bilateral ___ edema, guaiac+ brown 
stool. No abdominal pain or tenderness.  
 - Labs were notable for: WBC 10.4, H/H 6.___, ALT 75, AST 118, 
lipase 151, Tbili 2.9, lactate 2.3. UA showed moderate blood, 6 
RBCs, few bacteria, 1 WBC, no leuks/nitrates.  
 - Imaging:  
 - The patient was given: PO Tylenol ___ x1, CTX 1gm x1, 
Azithromycin 500mg x1.  
 - Consults: none  
 - Pt was admitted to medicine for: PNA, hematuria, workup of 
abdominal pain  
 Vitals prior to transfer were: pain 2, 99.1, 95, 145/59, 29, 
97% RA  
 Upon arrival to the floor, patient reports ___ lower quadrant 
abdominal pain unchanged in character or distribution from 
baseline. He is most concerned about his urinary changes. For me 
he denies, fever, chills, dysuria, frequency, urgency, foul odor 
to urine, diarrhea. He does endorse constipation with last bowel 
movement being ___ days prior. He decided to come to the 
hospital for evaluation of his urinary changes but also because 
he felt he was more weak than normal for him.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +CKD, + HIV  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: CAD s/p Promus DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to mLCX on ___. LAD ___.  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 -HFpEF  
 -Mild AR  
 -CKD (Cr 1.4)  
 -PAD  
 -SIADH  
 -HIV  
 -HCV cirrhosis  
 -portal HTN  
 -GERD  
 -chronic diarrhea  
 -cervical stenosis  
 -COPD  
 -colonic polyps  
 -ACD  
 -G6PD deficiency  
 -peripheral neuropathy  
 -? pulmonary TB  
 -+RPR treated in the ___  
 
Social History:
___
Family History:
Mother with heart disease diagnosed at age ___. Brother with 
cardiomegaly.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VITALS: 98.5, 140/57, ___, 18, 95% RA  
 GENERAL: Pleasant, thin elderly man, in no apparent distress.  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear without lesions or 
exudates.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat at 45 degrees.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft. TTP in lower quadrants as 
well as RUQ. Mildly distended/tympanic, no organomegaly but exam 
limited secondary to discomfort.  
 EXTREMITIES: Warm, well-perfused, no cyanosis. 1+ dependent 
pitting edema of bilateral LEs.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait not assessed.  

DISCHARGE EXAM
98   160/72  18 88  100 RA
General: NAD. A&Ox3
HEENT: normocephalic, atraumatic, no conjunctival pallor. sclera 
icterus
NECK: JVP flat.
CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Reduced breath sounds to auscultation anteriorly 
Crackles on right lower bases. Clear to auscultation on left 
base.Tender to palpation worst in the RUQ with guarding. 
ABDOMEN: Normal bowel sounds, soft. Non tender. No organomegaly
EXTREMITIES: Warm, well-perfused, no cyanosis.
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ upper limbs. 
 
Pertinent Results:
ADMISSION LABS

___ 07:09PM BLOOD WBC-10.4*# RBC-2.23* Hgb-6.8* Hct-21.0* 
MCV-94 MCH-30.5 MCHC-32.4 RDW-12.9 RDWSD-44.2 Plt Ct-89*

___ 07:09PM BLOOD Neuts-79.0* Lymphs-12.4* Monos-7.9 
Eos-0.0* Baso-0.1 NRBC-0.2* Im ___ AbsNeut-8.19*# 
AbsLymp-1.29 AbsMono-0.82* AbsEos-0.00* AbsBaso-0.01
___ 07:09PM BLOOD ___ PTT-44.4* ___
___ 07:09PM BLOOD Plt Ct-89*
___ 07:09PM BLOOD Glucose-147* UreaN-69* Creat-3.0*# Na-136 
K-3.8 Cl-102 HCO3-20* AnGap-18
___ 07:09PM BLOOD ALT-75* AST-118* LD(LDH)-322* 
CK(CPK)-574* AlkPhos-101 TotBili-2.9* DirBili-2.2* IndBili-0.7
___ 07:09PM BLOOD Lipase-151*
___ 07:09PM BLOOD Albumin-3.0* Iron-19*
___ 07:09PM BLOOD calTIBC-186* Hapto-316* Ferritn-677* 
TRF-143*
___ 08:24PM BLOOD Lactate-2.3*
___ 08:24PM BLOOD Lactate-2.3*

IMAGING
___ CXR
Persistent right lower lobe pneumonia.  

___ CXR 
Right lower lobe pneumonia and small right pleural effusion.

___ RUQ US
1.  The hepatic parenchyma appears coarsened.  No focal liver 
lesions.

___ Renal US
Normal renal ultrasound.  No hydronephrosis.

___ TTE
The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). The estimated 
cardiac index is high (>4.0L/min/m2). Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. There is no pericardial effusion. 

 Compared with the prior study (images reviewed) of ___, 
the degree of aortic regurgitation appears slightly less in the 
current study; moderate pulmonary hypertension is detected. The 
other findings are similar.  

MICRO
___ URINE URINE CULTURE-FINAL INPATIENT 
___ STOOL C. difficile DNA amplification assay-FINAL 
{CLOSTRIDIUM DIFFICILE}; FECAL CULTURE-FINAL; CAMPYLOBACTER 
CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT 
___ URINE Legionella Urinary Antigen -FINAL INPATIENT 
___ IMMUNOLOGY HIV-1 Viral Load/Ultrasensitive-FINAL 
INPATIENT 
___ IMMUNOLOGY HCV VIRAL LOAD-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL EMERGENCY 
WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL EMERGENCY 
WARD 

DISCHARGE LABS
___ 08:00AM BLOOD WBC-6.9 RBC-2.57* Hgb-7.9* Hct-25.2* 
MCV-98 MCH-30.7 MCHC-31.3* RDW-15.4 RDWSD-54.9* Plt ___
___ 08:00AM BLOOD Glucose-100 UreaN-35* Creat-2.1* Na-139 
K-4.3 Cl-110* HCO3-21* AnGap-12
___ 08:00AM BLOOD Calcium-8.9 Phos-3.9 Mg-1.___ with PMH significant for HIV on HAART (reportedly with 
undetectable VL), HepC s/p Harvoni (reportedly with undetectable 
VL), CAD s/p multiple stents, CKD (baseline Cr 1.5), HTN, COPD 
and chronic diarrhea who presents with hematuria and abdominal 
pain, found to have c-diff, CAP pneumonia, non-oliguric ___ with 
nephrotic range proteinuria. 

#RLL PNEUMONIA: On admission, patient did not report SOB above 
baseline but had leukocytosis and CXR showing R pleural effusion 
with either compressive atelectasis or PNA in RLL so we treated 
as CAP.  As of ___, patient was having worsening SOB, malaise, 
and cough, in setting of demand ischemia, c-diff, and with poor 
improvement from previous azithromycin/ceftriaxone treatment for 
CAP. Abx escalated to vancomycin/zosyn(day 1 = ___, 
de-escalated on ___ to levofloxacin (last day ___. For 
symptomatic relief, given duonebs and guaifenesin. 

___ ON CKD: Cr on presentation is 3.0 from baseline of 1.5. 
Urine lytes are notable for elevated Prot/Cr ratio 5.0, UNa 15 
and UCl less than assay. FeNa<1%. Urine culture was negative. 
BUN/Cr have been stable ranging from 2.9-3.3 and w/ preserved 
urine output (~1400cc/day). Given his new ___, elevated 
Protein/Cr ratio with hematuria, renal was consulted for 
evaluation of possible nephrotic/nephritic syndrome which may be 
playing a role in his presentation. Renal consulted and felt ___ 
likely ___ ischemic ATN in the setting of hypovolemia from 
chronic diarrhea w/ poor PO intake. Other etiologies of renal 
insufficiency with nephrotic range proteinuria were considered 
(ie HIVAN, primary or secondary membranous nephropathy, 
amyloid). However, based on his presentation, clinical course, 
and urine sediment (no active component) ___ is most likely from 
ATN & proteinuria by hypertensive nephropathy. Notably, C3/C4 
wnl, & TP/Cr improving with better BP control. Cr on discharge = 
2.1.

#METABOLIC ACIDOSIS: in setting ___ and diarrhea. Started on 
bicarbonate TID per renal.

#ANEMIA: thought likely mixed picture, with both iron deficiency 
and anemia of chronic disease. Less concerning for hemolysis or 
acute bleed. Hgb 6.8 on admission from baseline of 8.2-8.5 and 
improving s/p 1pRBC ___. Guiac positive but recent normal EGD 
and colonoscopy. Given 1 U PRBC ___ for goal Hb>8 following 
demand ischemia (see below). 

#C Diff: Patient producing mucus jelly diarrhea and found to 
have positive c diff in stool. Patient started on oral 
vancomycin but due to persistent diarrhea, IV flagyl added on 
___. Diarrhea improved and IV flagyl discontinued on 
___. PO vancomycin continued w/ plan for ___ay 
1= ___, last day = ___. 

#Chest Pain, CAD: Hx 3 vessel dx w/ BMS. On ___, patient 
developed chest pressure with SOB, cough, and malaise. Troponin 
elevated at 1.16 but CKMB normal at 4, EKG w/ ST elevations in 
V2 and V3 w/o reciprocal changes. CXR unchanged or improved. 
Cardiology consulted and most concerned for missed MI vs mild 
demand ischemia in the setting of his known CAD and slow GI 
bleed.  TTE obtained w/ no focal wall motion abnormalities and 
preserved EF, making missed MI less likely.  Patient had no 
further episodes of chest pain. Transfusion goal made for Hb>8. 
He continued aspirin 81, carvedilol 25 mg bid, dilt 120, hydral 
75 qid and imdur 90 for CAD. 

#Altered Mental Status: On ___, Patient appeared altered, angry 
and confused unlike his baseline. Refusing morning labs. Most 
likely toxic metabolic encephalapathy in setting of c-diff and 
pneumonia. 

#Transaminitis: LFTs mildly elevated above normal baseline. 
Patient does have history of HCV/HIV s/p treatment with last 
reported viral loads undetectable. RUQ echo shows cirrhosis of 
liver with no new nodules. Likely hypovolemia and hypoperfusion 
in the setting of chronic cirrhosis. -___ labs, undetectable 
HIV viral loads, undetectable HCV viral loads unlikely 
medication side effect, portal 

#Dark urine: Patient reports reddish discoloration but resolving 
to yellow and clear. UA showed proteinuria, bilirubin, and few 
RBCs but moderate amount of blood raising the question of 
myoglobinuria. No recent trauma or instrumentation to the 
bladder that would explain this finding. Other possibilities 
include primary renal parenchymal disease or 
prerenal/dehydration in the setting of hypovolemia. Most 
concerning is a recovering rhabdomyalysis with possible 
myoglobin in urine with elevated CK. Acute intermittent 
porphyria is possible given the hematuria, and chronic 
intermittent abdominal pain. Given Prot/Cre ratio, nephrotic 
syndromes associated with HIV such as immune complex mediated 
glomerulonephritis, membranous nephropathy, or HIV associated 
nephropathy are possibly. Hemolytic anemia is unlikely given 
high direct bilirubin. Urine was bland and renal ultrasound 
showed no hydronephrosis.  

#ABDOMINAL PAIN: chronic per patient. Although patient does have 
a history of elevated lipase which could suggest chronic 
inflammation.  

CHRONIC ISSUES
#CAD: treatment as above
#HIV/HEP C COINFECTION/ CIRRHOSIS: c/b by known portal 
hypertension. Last EGD on ___ showed no esophageal varices.  
Patient continued HAART meds.
#COPD: currently without acute exacerbation. Patient denies 
increased sputum production despite read of PNA on CXR. 
#HTN: BP moderately well controlled. Will continue home Imdur, 
Hydralazine, carvedilol, amlodipine.  
#HLD: will hold home pravastatin given LFT abnormalities  
#GERD: continue home omeprazole  

Transitional Issues
- new medications:  oral vancomycin for Cdiff, end date = 
___. Sodium bicarbonate. 
- discontinued medications: oxybutynin to prevent urinary 
retention, pravastatin given possible resolving rhabdomyolysis, 
loperamide given Cdiff infection
- Follow up chest radiograph 6 weeks after completion of 
treatment is recommended to ensure resolution. 
- Consider exchanging amlodipine given patient complaint of LLE
- Changed LaMIVudine to 50mg during hospitalization when Cr 3.0. 
D/c with dose at 100mg with Cr 2.1. Follow up for appropriate 
dosing when Cr stable at baseline of home dose 150mg.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Desonide 0.05% Cream 1 Appl TP PRN apply to face as needed 
3. LOPERamide Dose is Unknown  PO Frequency is Unknown 
4. oxybutynin chloride 5 mg oral QPM 
5. ipratropium-albuterol ___ mcg/actuation inhalation QID 
6. Carvedilol 25 mg PO BID 
7. Diltiazem Extended-Release 120 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Amlodipine 10 mg PO DAILY 
10. HydrALAZINE 75 mg PO QID 
11. Efavirenz 600 mg PO DAILY 
12. Abacavir Sulfate 300 mg PO BID 
13. LaMIVudine 150 mg PO DAILY 
14. Pravastatin 20 mg PO QPM 
15. Multivitamins 1 TAB PO Frequency is Unknown 
16. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
17. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest discomfort 
18. Clopidogrel 75 mg PO DAILY 
19. Omeprazole 40 mg PO DAILY 
20. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Abacavir Sulfate 300 mg PO BID 
2. Acetaminophen 325-650 mg PO Q6H:PRN pain 
3. Amlodipine 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Carvedilol 25 mg PO BID 
6. Diltiazem Extended-Release 120 mg PO DAILY 
7. Efavirenz 600 mg PO DAILY 
8. HydrALAZINE 75 mg PO QID 
9. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
10. LaMIVudine 100 mg PO DAILY 
11. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
12. Omeprazole 40 mg PO DAILY 
13. Vancomycin Oral Liquid ___ mg PO Q6H 
14. Desonide 0.05% Cream 1 Appl TP PRN apply to face as needed 
15. Docusate Sodium 100 mg PO BID 
16. ipratropium-albuterol ___ mcg/actuation INHALATION QID 
17. Multivitamins 1 TAB PO DAILY 
18. Sodium Bicarbonate 1300 mg PO TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary: acute kidney injury, anemia, clostridium difficile, 
tropinemia
Secondary: chronic kidney disease, hypertension, chronic 
obstructive pulmonary disease, coronary artery disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
You were admitted with abdominal pain and bloody urine.  You 
were found to have a pneumonia and an infection called 
Clostridium difficile which causes diarrhea.  You were given 
antibiotics for these conditions which you should continue.  You 
will take oral vancomycin until ___.

You were found to have renal failure and low blood counts.  You 
were given blood and the kidney doctors were ___ and 
thought your renal injury was due to poor blood flow to your 
kidney which may have occurred in the setting of the above 
infections.  This type of injury usually improves over time. 

You had chest pain but did not have evidence of a heart attack.  
You had imaging of your heart that showed little change from 
prior.  You were continued on your home medications for coronary 
artery disease.

Please follow up with your doctors ___, kidney) as 
scheduled below.

It was a pleasure to care for you!
-Your ___ Team-

 
Followup Instructions:
___